spice
* BJT Amplifier Circuit

Q1 2 Vin 0 QMODEL
Q2 2 Vb1 4 QMODEL
Q3 Vout Vb2 2 QMODEL

VCC VCC 0 DC 10V
Vin Vin 0 DC 0V
Vb1 Vb1 0 DC 2V
Vb2 Vb2 0 DC 5V

* Define transistor model
.model QMODEL NPN (Is=1e-16 Bf=100)

* Simulation and analysis statements
.tran 1n 100n
.end